US09314464B2
Intermediate. 3-Fluoro-4-iodopyridin-2-amine
A solution of 2-amino-3-fluoropyridine (1.0 g, 8.9 mmol) in anhydrous THF (40 ml) was treated dropwise at −78° C. with n-butyllithium (1.6 M in hexanes, 13.9 ml, 22.3 mmol). Following the addition, the mixture was stirred at −78° C. for 1 h, then a solution of iodine (10.2 g, 40.1 mmol) in THF (20 ml) was added. The mixture was extracted with ethyl acetate, and the organic extracts were washed with sodium thiosulfate, sodium bicarbonate and brine. The organic phase was dried over sodium sulfate and concentrated. The crude product was purified by silica gel chromatography (8:1 to 2:1 hexanes/ethyl acetate eluant) to provide the title compound. MS m/z 238.9 (M+1).

reactant | 2-amino-3-fluoropyridine | 8.9 mmol, 1.0 g | NC1=NC=CC=C1F | C5H5FN2
reactant | n-butyllithium | 22.3 mmol, 1.6 M, 13.9 ml | C(CCC)[Li]
reactant | iodine | 40.1 mmol, 10.2 g | II | I2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-Fluoro-4-iodopyridin-2-amine | FC=1C(=NC=CC1I)N | C5H4FIN2
